US09326973B2
To a reaction mixture of methyl but-3-enoate (1.0 g, 10 mmol) and zinc-copper couple (2.0 g, 15.5 mmol) in DME (5 mL) and ether (30 mL) was added trichloroacetyl chloride (2.98 mL, 26.7 mmol) under N2 at rt. The reaction mixture was stirred at rt for 2.5 days. The reaction mixture was filtrated through diatomaceous earth (Celite®) and washed with DCM. The filtrate was concentrated and purified by 80 g silica gel cartridge which was eluted with a 20 min gradient of 0-60% EtOAc in hexane to yield methyl 2-(2,2-dichloro-3-oxocyclobutyl)acetate (1.0 g). 1H NMR (400 MHz, CDCl3) ppm 3.66-3.70 (3H, m), 3.42-3.55 (1H, m), 3.23-3.39 (1H, m), 3.05 (1H, dd, J=17.82, 8.78 Hz), 2.90 (1H, dd, J=16.94, 6.65 Hz), 2.67 (1H, dd, J=16.94, 8.16 Hz).

reactant | methyl but-3-enoate | 10 mmol, 1.0 g | C(CC=C)(=O)OC | C5H8O2
reactant | trichloroacetyl chloride | 26.7 mmol, 2.98 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | DME | 5 mL | COCCOC | C4H10O2
solvent | ether | 30 mL | CCOCC | C4H10O
catalyst | zinc-copper couple | 15.5 mmol, 2.0 g | [Cu].[Zn]
product | methyl 2-(2,2-dichloro-3-oxocyclobutyl)acetate | 1.0 g | ClC1(C(CC1=O)CC(=O)OC)Cl | C7H8Cl2O3
